US06552022B1
1-(3-Cyano-benzyl)-4-(4-nitro-phenyl)-piperazine
To a stirred solution of 1-(4-nitro-phenyl)-piperazine (35.9 g) and potassium carbonate (71.6 g) in acetone (500 mL) was added dropwise 3-cyano-benzyl bromide (34 g) at room temperature and the mixture was heated under reflux. After 4 hours, the salts were removed by filtration, washed with acetone and the filtrate was evaporated to dryness. The residue was taken in CH2Cl2 and the solution was washed with water, dried over Na2SO4, filtered and evaporated. The oily residue was crystallized from AcOEt/diisopropyl ether to give the title compound (52 g) as orange crystals.

reactant | 1-(4-nitro-phenyl)-piperazine | 35.9 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | potassium carbonate | 71.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyano-benzyl bromide | 34 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 1-(3-Cyano-benzyl)-4-(4-nitro-phenyl)-piperazine | 52 g | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C18H18N4O2
